* C:\Users\pablo\OneDrive\Escritorio\Universidad\Analogica 1\Proyecto Uno\Proyecto Analogica\A3_BajaSK_2.asc
R1 N001 Vin {R1}
C1 N001 Vout {C1}
XU1 N002 Vout Vcc -Vcc Vout LT1001
C2 N002 0 {C2}
V2 Vcc 0 15
V3 0 -Vcc 15
V4 Vin 0 PWL file=sig_in.csv AC 5
R2 N002 N001 {R2}
.tran 0 {transtop} 0 {timestep} startup
.include param.txt
.include trancmd.txt
* do not edit this by hand
.lib LTC.lib
.backanno
.end
